Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa(Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
right sided abdominal pain
 
Major Surgical or Invasive Procedure:
laparoscopic right oophorectomy

 
History of Present Illness:
___-old G3P1 woman with history of stage IBI endometrioid 
adenocarcinoma of the cervix and ___ who presented from home to 
ED with sudden onset RLQ and right lower back pain. She was 
lying in bed with her daughter when her pain started out of 
nowhere. She feels it in her right lower back and right lower 
quadrant. Pain quickly became ___ and was waxing and waning 
when it started at ___ on ___. She has also felt nauseous. 
Denies fever, chills, anorexia, emesis, dysuria, hematuria, 
diarrhea, constipation, vaginal bleeding. Of note, she 
reportedly has a history of right sided ovarian torsion on ___ for which she presented to ___ ED. She was 
found to have torsion and the surgeons detorsed her right ovary 
but did not remove it or any cysts. She thinks it was a 
hemorrhagic cyst.  In the ED, she has received a total of 8 mg 
of morhine and 2 mg of IV dilaudid before she felt any relief of 
her pain. She reports getting ultrasound here and having extreme 
pain with her TVUS. 
 
Past Medical History:
Medical
- depression and anxiety on effexor 75 mg QD, also sees 
therapist
- Lower back pain (degenerative disks)

Surgical
- L knee surgery x 4
- TLH, BS
- lsc pelvic lymphadenectomy
- lsc detorsion of right ovary 

OBHx: 
G3P1
G3: SVD, FT
G2: ___ TAB
G1: ___ TAB

GYNHx:
- menarche at 11
- no vaginal bleeding since hysterectomy 
- h/o ovarian torsion s/p lsc de-torsion, ___
 
Social History:
___
Family History:
- Denies a known family history of breast, ovarian, uterine,
cervical, or colon malignancy
- Denies family history of bleeding or clot disorders 
- father with lymphoma, ___ with DM, 
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
Gen: No acute distress
CV: RRR
Pulm: CTAB 
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: non-tender, non-edematous

 
Pertinent Results:
___ 01:30AM URINE  HOURS-RANDOM
___ 01:30AM URINE  UCG-NEGATIVE
___ 01:30AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 12:13AM   GLUCOSE-100 UREA N-11 CREAT-0.7 SODIUM-136 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-18* ANION GAP-14
___ 12:13AM   estGFR-Using this
___ 12:13AM   ALT(SGPT)-14 AST(SGOT)-21 ALK PHOS-42 TOT 
BILI-0.5
___ 12:13AM   ALBUMIN-4.1
___ 12:13AM   WBC-8.7 RBC-3.95 HGB-12.3 HCT-35.9 MCV-91 
MCH-31.1 MCHC-34.3 RDW-11.9 RDWSD-39.3
___ 12:13AM   NEUTS-57.3 ___ MONOS-9.9 EOS-1.6 
BASOS-0.6 IM ___ AbsNeut-5.01 AbsLymp-2.65 AbsMono-0.86* 
AbsEos-0.14 AbsBaso-0.05
___ 12:13AM   PLT COUNT-307
___ 12:13AM   ___ PTT-29.7 ___
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing laparoscopic right oophorectomy. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Procedure was 
uncomplicated. Following the procedure, she went to the PACU. 
Her pain was managed on PO oxycodone/acetaminophen with IV 
dilaudid for breakthrough. She tolerated the procedure well. 
Voided 300 cc. She was then discharged home in stable condition 
with outpatient follow-up scheduled.
 
Medications on Admission:
- effexor 75 mg QD
- ativan 1 mg QHS PRN insomnia 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
per day Disp #*60 Capsule Refills:*1 
3.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
once a day Disp #*84 Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
Take with food. 
RX *ibuprofen [IBU] 600 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
Do not drive or drink alcohol while taking this medication. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ovarian torsion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service for your 
surgery. You have recovered well after your operation, and the 
team feels that you are safe to be discharged home. Please 
follow these instructions: 

Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___